US04267179
A mixture of 40 parts of ethanimidamide hydrochloride, 20 parts of cis-N-{4-[4-{4-[2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethoxy]phenyl}-1-piperazinyl]phenyl}hydrazinecarboxamide, 40 parts of sodium acetate and 90 parts of N,N-dimethylformamide is stirred and heated for 4 hours at 130° C. The reaction mixture is cooled and 100 parts of water are added. The precipitated product is filtered off, washed with water and with 2-propanol, and crystallized from 1-butanol, yielding 9 parts (44%) of cis-4-{4-[4-[2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethoxy]phenyl}-1-piperazinyl]phenyl}-2,4-dihydro-5-methyl-3H-1,2,4-triazol-3-one 2-propanolate (2:1); mp. 295.7° C.

reactant | ethanimidamide hydrochloride | Cl.C(C)(N)=N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,4-dihydro-5-methyl-3H-1,2,4-triazol-3-one 2-propanolate | CC(C)[O-].CC=1NC(NN1)=O | InChI=1S/C3H5N3O.C3H7O/c1-2-4-3(7)6-5-2;1-3(2)4/h1H3,(H2,4,5,6,7);3H,1-2H3/q;-1
